US09029405B2
Step 3: tert-butyl 2-(2-(tert-butyldimethylsilyloxy)-1-(4-cyanophenyl)ethylamino)acetate
t-Butyldimethyl silyl chloride (0.579 g; 3.84 mmol) and imidazole (0.261 g; 3.83 mmol) were added to a solution of tert-butyl 2-(1-(4-cyanophenyl)-2-hydroxyethylamino)acetate (0.709 g; 2.56 mmol) in DMF (10 mL). The reaction mixture was stirred at ambient temperature for 18 hours. The mixture was diluted with EtOAc and washed sequentially with water and brine. The organic phase was poured through a hydrophobic frit and the solvent evaporated in vacuo. The residue was purified by flash chromatography eluting with iso-hexane/EtOAc (10:1) to afford the title compound. 1H NMR (CDCl3, 400 MHz) δ 7.63-7.61 (m, 2H), 7.48 (d, J=8.4 Hz, 2H), 3.86-3.83 (m, 1H), 3.66-3.55 (m, 2H), 3.23 (d, J=16.8 Hz, 1H), 3.06 (d, J=16.8 Hz, 1H), 2.53 (br s, 1H), 1.47 (s, 9H), 0.90 (s, 9H), 0.10 (s, 3H), 0.09 (s, 3H).

reactant | t-Butyldimethyl silyl chloride | 3.84 mmol, 0.579 g | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | imidazole | 3.83 mmol, 0.261 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyl 2-(1-(4-cyanophenyl)-2-hydroxyethylamino)acetate | 2.56 mmol, 0.709 g | C(#N)C1=CC=C(C=C1)C(CO)NCC(=O)OC(C)(C)C | C15H20N2O3
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl 2-(2-(tert-butyldimethylsilyloxy)-1-(4-cyanophenyl)ethylamino)acetate | [Si](C)(C)(C(C)(C)C)OCC(C1=CC=C(C=C1)C#N)NCC(=O)OC(C)(C)C | C21H34N2O3Si
